US07776875B2
Preparation of Intermediate E/Z-2-[2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-4-fluoro-phenoxy]-2-methyl-propionic acid ethyl ester
To the mixture of 6-chlorooxindole (5.3 g, 31.7 mmol) and 2-(4-fluoro-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester (8 g, 31.7 mmol) in methanol (30 mL) was added pyrrolidine (2.6 mL, 31.7 mmol) dropwise. Then the mixture was heated at 70° C. for 3 h. After cooled to room temperature, the mixture was filtered and the precipitate was collected, dried to give the title compound as a yellow solid (10 g).

reactant | 6-chlorooxindole | 31.7 mmol, 5.3 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 2-(4-fluoro-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester | 31.7 mmol, 8 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)F)C=O)=O | C13H15FO4
reactant | pyrrolidine | 31.7 mmol, 2.6 mL | N1CCCC1 | C4H9N
solvent | methanol | 30 mL | CO | CH4O
product | Z-2-[2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-4-fluoro-phenoxy]-2-methyl-propionic acid ethyl ester | 10 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)F)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C21H19ClFNO4
